US06306840B1
To a solution of t-butyl 4-amino-3-methoxyphenylacetate (0.024 g, 0.10 mmol) in methylene chloride (2.0 mL) was added o-tolyl isocyanate (15 μL, 0.12 mmol). The reaction was stirred for 2 h then concentrated to afford t-Butyl 3-methoxy-4-o-tolylureidophenylacetate (0.036 g, 97%) as a tan foam: 1H NMR (CDCl3, 300 MHz, ppm) 8.05 (d, 7.9 Hz, 1H), 7.55 (d, 7.9 Hz, 1H), 7.45-7.05 (m, 5H), 6.78 (m, 2H), 3.73 (s, 3H), 3.48 (s, 2H), 2.23 (s, 3H), 1.44 (s, 9H).

reactant | t-butyl 4-amino-3-methoxyphenylacetate | 0.10 mmol, 0.024 g | NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)OC | C13H19NO3
reactant | o-tolyl isocyanate | 0.12 mmol, 15 μL | C=1(C(=CC=CC1)N=C=O)C | C8H7NO
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | t-Butyl 3-methoxy-4-o-tolylureidophenylacetate | 0.036 g, 97% | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)OC(C)(C)C | C21H26N2O4
